US04155913
1.5 g of 7-chloro-5-(o-chlorophenyl)-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepin-2-thione are refluxed for 4 hours with 4 g of 2-(p-methoxybenzyloxy)acetic acid hydrazide in 100 ml of absolute butanol, a nitrogen stream being conducted through the solution. The mixture is evaporated, taken up in methylene chloride, washed with water and saturated sodium chloride solution, dried and evaporated. By recrystallization of the residue from ethyl acetate containing active carbon, there is obtained 2-chloro-4-(o-chlorophenyl)-9-[(p-methoxybenzyloxy)methyl]-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine.

reactant | 7-chloro-5-(o-chlorophenyl)-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepin-2-thione | 1.5 g | ClC1=CC2=C(NC(CN=C2C2=C(C=CC=C2)Cl)=S)S1 | C13H8Cl2N2S2
reactant | 2-(p-methoxybenzyloxy)acetic acid hydrazide | 4 g | COC1=CC=C(COCC(=O)NN)C=C1 | C10H14N2O3
solvent | butanol | 100 ml | C(CCC)O | C4H10O
product | 2-chloro-4-(o-chlorophenyl)-9-[(p-methoxybenzyloxy)methyl]-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)COCC3=CC=C(C=C3)OC)C3=C(C=CC=C3)Cl | C23H18Cl2N4O2S
